US08802673B2
To a stirred solution of (RS)-tert-butyl 2-(4-bromo-2-fluorophenyl)-2-hydroxyethyl(2-hydroxyethyl)carbamate (15.5 g) and triethylamine (9.85 ml) in THF (120 ml) at 0-5° C. was added dropwise methanesulfonyl chloride (3.35 ml). The reaction mixture was then stirred at room temperature for 1 hour to afford a white suspension. The reaction mixture was then filtered to remove triethylamine hydrochloride, washing the filter with THF (20 ml). The filtrate was cooled to 0-5° C. and potassium 2-methyl-2-butoxide (36.2 ml, 1.7 M solution in toluene) was added. The reaction mixture was stirred at room temperature for 20 min and then poured into EtOAc and washed sequentially with 1 M aq. HCl, water and saturated brine. The organic phase was separated, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel; gradient: 0% to 30% EtOAc in hexanes) to afford (RS)-tert-butyl 2-(4-bromo-2-fluorophenyl)morpholine-4-carboxylate (6.46 g, 44%) as a yellow oil. MS (EI): 305 ([{81Br}M-C4H8]+), 303 ([{79Br}M-C4H8]+), 260 ([{∥Br}M-C4H8—CO2H]+), 258 ([{79Br}M-C4H8—CO2H]+).

reactant | (RS)-tert-butyl 2-(4-bromo-2-fluorophenyl)-2-hydroxyethyl(2-hydroxyethyl)carbamate | 15.5 g | BrC1=CC(=C(C=C1)C(CN(C(OC(C)(C)C)=O)CCO)O)F | C15H21BrFNO4
reactant | triethylamine | 9.85 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.35 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | (RS)-tert-butyl 2-(4-bromo-2-fluorophenyl)morpholine-4-carboxylate | 6.46 g, 44% | BrC1=CC(=C(C=C1)C1CN(CCO1)C(=O)OC(C)(C)C)F | C15H19BrFNO3
